Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizures
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ ___ man with a history of
atypical chest pain, HTN, and recently diagnosed "migraines" who
presents as a transfer from ___ after multiple seizures in
the setting of 6 weeks of a constellation of systemic symptoms
including worsening headaches, blurry vision, chest "tightness,"
nausea, vomiting, and weight loss.

Yesterday evening, he finished a ___ jiu jitsu training
session and returned home at approximately 8 ___. He proceeded to
take a shower and then lied down. Soon after lying down, he
states that he developed recurrent "tightness" across his entire
chest as outlined below. This was associated with shortness of
breath. Due to the persistent nature of his symptoms, he drove
himself to ___ for further evaluation. 

There, VS were normal. There was no hypoxia, tachycardia, or 
risk
factors for PE. While awaiting CXR, he became acutely
unresponsive. Eyes rolled back in his head and the patient
"appeared to be seizing." This lasted < 3 minutes. He was dosed 
2
mg Ativan. He then proceeded to have 2 additional episodes
concerning for seizure for which he received additional IV
Ativan. CT head was negative. Labs notable for WBC 13.8, MCV
70.8, Cre 1.4, AST/ALT 112/87. He was transferred to ___ for
further evaluation. 

The patient states that he has been feeling unwell for roughly
the past 6 weeks. Over this time, he notes the following: 

1) Worsening headaches. Headache history as per below. For the
past 6 weeks, his headaches have become both more severe and 
more
frequent. He describes a bitemporal and ___ "pounding"
pain that occasionally radiates posteriorly. These headaches
previously occurred once per week (for roughly the last ___ years)
but have recently occurred almost every day. They frequently 
wake
him from sleep. He notes that the headaches are associated with
feelings of ___ and that, upon standing, it takes him
"a while to come to [his] senses." There is associated
photophobia. Sometimes, the headaches are improved upon standing
and worse when lying down. He has tried Excedrin, Tylenol, and
Sudafed with no improvement.

2) Blurry vision. For the past 1.5 - 2 weeks, he has had blurry
vision affecting both eyes. The blurry vision correlates with 
his
headache symptoms and can last for as long as ___ days. He 
denies
diplopia.

3) Chest tightness. For the past couple of weeks, he states that
he has had chest "tightness" across his chest, associated with
dyspnea at rest. No clear trigger. He denies lightheadedness. 

4) Nausea and vomiting. Also associated with headaches, worse
over the past couple of weeks. No clear precipitant. Episodic.

5) Weight loss. He states that he has lost 22 pounds,
unintentionally, over the past 6 weeks. 

On neurological ROS, the patient denies frank loss of vision
(though endorses blurry vision as above), dysarthria, dysphagia,
dysgeusia, dysosmia, abnormal sensations of something "rising" 
in
the abdomen, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness, parasthesiae. No bowel
or bladder incontinence or retention. Some gait imbalance as
noted above.

On general review of systems, the patient endorses weight loss 
as
noted above but denies recent fever or chills. Denies diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash.
 
Past Medical History:
# Atypical chest pain: Previously had negative coronary CTA in
___ -> no evidence of CAD. Follows with cardiologist, ___, MD at ___. Coronary anatomy based on CCTA ___: Left
dominant. Tiny focus of calcified plaque in ___ to mid RCA w /
no stenosis. No other evidence of CAD present. EKG ___:
Sinus at 86 bpm w/ L axis/ LAFB and possible old inferior MI.
MIBI: 11 ___ protocol ___ Mets). No diagnostic EKG
changes. No definite ischemia was identified. An inferior wall
perfusion abnormality may represent infarct. There was severe
global hypokinesis. The LVEF equals 34%. Echo ___: LVEF
___. Mild LVH. Trace TR. EKG ___: Sinus rhythm at 89
bpm. Possible old inferior infarct.
                               
# Migraines: States that he was diagnosed with migraines several
months ago. Per review of ___ records, patient presented to his
PCP in ___ with "new migraines" and was evaluated by a
neurologist, Dr. ___, in ___. He was started on
amitriptyline 10 mg QHS though this has not helped much.

# Seizures: Does not recall many of the details but notes that 
he
had seizures when he was ___. Believes they were GTCs though
cannot confirm. Does not recall if he was on medications at that
age.

# Hyperlipidemia.

# Tinea pedis.
 
Social History:
___
Family History:
Father dies from complications of drug and alcohol abuse in his
___. Mother had seizures and died from complications of stroke 
in
her early ___. He has 5 brothers and 5 sisters. One of his
sisters has stage IV ovarian cancer. None of his siblings have
seizures as far as he is aware. 
 
Physical Exam:
Admission:
Vitals: T 97.7, HR 96, BP 151/97, RR 18, Sa 97% RA 
General: Muscular man in NAD. Sleepy though arousable,
cooperative when awake.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: Hyperpigmented patches over the anterior surface of both
lower shins. Multiple tattoos. 

Neurologic:

-Mental Status: Sleepy, frequently closes eyes and fails to
respond to examiner's questions. He has no recollection of the
seizures at ___. When more awake, he is overall alert and
able to name ___ without errors. Made 4 errors, however, when
counting backwards from 20. Oriented to hospital by name
initially though later asks which hospital he is at. Naming
intact to both high and low frequency items. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Able to read without difficulty. Able
to follow both midline and appendicular commands. Able to
register 3 objects but was unable to recall any of the 3 at 5
minutes, ___ with category clues. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II: PERRL 4 to 2mm and brisk. VFF to confrontation. Fundoscopic
exam attempted but unable to be performed fully due to
photophobia with frequent eye closure. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to ___ bilaterally.
IX, X: Palate elevates symmetrically. No dysarthria.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Markedly increased bulk throughout, normal tone
throughout. No pronator drift bilaterally. No adventitious
movements, such as tremor, noted. No asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP  Quad  Ham TA  ___
L  5    ___   5    ___    5    5   5     5     5
R  4    ___   5    5-  5   4+   5    5   5     5     5

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs: Unable to elicit any reflexes even with distraction
maneuvers. Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait/Station: Able to rise from seated position independently.
However, upon standing he nearly falls backwards into the bed.
Stands on the heels of his feet when unsupported. He did not 
feel
comfortable attempting to walk.

=
=
=
=
=
=
=
=
=
================================================================

Discharge:
Normal non focal neurologic exam.
 
Pertinent Results:
___ 07:00AM BLOOD ___ 
___ Plt ___
___ 06:29AM BLOOD ___ 
___ Im ___ 
___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD ___ ___
___ 06:29AM BLOOD Plt ___
___ 06:29AM BLOOD ___ ___
___ 07:00AM BLOOD ___ 
___
___ 06:29AM BLOOD ___ 
___
___ 07:00AM BLOOD ___ LD(LDH)-300* 
CK(CPK)-1280* ___
___ 07:00AM BLOOD ___ 
___
___ 06:29AM BLOOD ___
___ 06:38AM BLOOD ___
cvEEG (preliminary): no epileptiform activity
MRI: read pending

 
Brief Hospital Course:
___ is a ___ man preparing for a jiu jitsu world 
competition in ___, with history of hypertension, 
hyperlipidemia, atypical chest pain, and migraine. He initially 
presented to ___ with 6 week of worsening headache 
associated with n/v and b/l blurry vision, chest "tightness" 
associated with dyspnea at rest, and unintentional 22lb weight 
loss in 6 weeks. He was then transferred here for 3 witnessed
___ activities at ___ that were thought to be 
seizure. NCHCT was unremarkable. Lab work was notable for 
elevated CK and ___ on arrival to ___ ER. The patient was 
admitted to general neurology and worked up as follows: 

#Spells
- The patient was connected to the EEG and various spells were 
captured which were NOT associated with any epileptic discharges
- IV Ativan 2mg given for spells at ___ additional 
Ativan given here given that these were witnessed by neurology 
team and not epileptic
- Keppra 100mg BID on ___ in ED but discontinued thereafter
- Semiology of episode witnessed by team on ___ not concerning 
for seizures given hip thrusting, moaning, lack of posictal 
phenomena, and most importantly lack of epileptiform discharges 
during captured event. 

# Headaches
# Blurry Vision
-Consistent with migraine
- Tylenol ___ q6 PRN headaches
- Increased amitriptyline to 25mg QHS. Plan to increase to 50mg 
QHS next week.
- MRI head with and without contrast: pending

# Dehydration
-  IVF (NS @100cc/hr) for CKemia and ___, encouraged to drink 
fluids

Transitional Issues:
- Follow up CK, Creat, LDL as per PCP
- ___ amitriptyline to 50mg QHS on ___.
- Patient has neurologist in Partners system. Patient to 
schedule additional neurology apt. 
- Patient to f/u in cognitive behavioral therapy

Patient eloped from ___ before the recommended brain MRI or 
his discharge process could be completed. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO QHS 
2. ___ CAP PO Q8H:PRN Pain - Mild 
3. Clotrimazole Cream 1 Appl TP BID 
4. ValACYclovir 500 mg PO Q24H 
5. Zolpidem Tartrate 5 mg PO QHS 

 
Discharge Medications:
1.  Amitriptyline 25 mg PO QHS 
RX *amitriptyline 25 mg 1 tablet(s) by mouth at night Disp #*90 
Tablet Refills:*3 
2.  ___ CAP PO Q8H:PRN Pain - Mild  
3.  Clotrimazole Cream 1 Appl TP BID  
4.  ValACYclovir 500 mg PO Q24H  
5.  Zolpidem Tartrate 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ spells, anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You came to the ER for evaluation of chest pain, shortness of 
breath, and headaches and were witnessed to have shaking 
episodes or spells. 

You were admitted to the Neurology service for evaluation of 
these shaking spells and were connected to a machine called an 
EEG. The EEG did not show any abnormal electrical abnormalities 
during the captured spell. We think you have ___ 
spells that are not seizures-  a condition that is often brought 
on by stress. 

For your chest pain, you had troponin levels drawn - measurement 
of your cardiac function - which were normal and you were 
connected to a heart monitor which showed normal heart rhythms. 

You were found to have evidence of muscle break down and 
dehydration which can often occur with ___. 

We recommend that you drink plenty of water to prevent 
dehydration and help kidneys clear the products of muscle break 
down. We increased the dose of your amitriptyline to help with 
headache. Cognitive behavioral therapy and addressing any 
stressors with social worker can also be helpful.

It was a pleasure taking care of you!

Sincerely, 
Your ___ Neurology Team
 
Followup Instructions:
___